* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1121-5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 10)
Rload OUT 0 100
C1 OUT 0 1µ
X§U1 OUT MP_01 0 MP_02 NC_03 MP_04 MP_05 IN LT1121-5
.tran 1
* Note Abs. Max SHDN pin voltage 6.5
.lib LT1121.lib
.backanno
.end
